US06821992B1
N-[(3-Chloro-5-trifluoromethyl-2-pyridyl)methyl]-3-(2-tolyl)propionamide
To a mixture of (3-chloro-5-trifluoromethyl-2-pyridyl)methylamine hydrochloride (1 mmol, 0.247 g) in tetrahydrofuran (5 ml) was added triethylamine (2 mmol, 0.202 g) at room temperature and the mixture was stirred at room temperature for 1 hour. The mixture was filtered and the filtrate added to a solution of 3-(2-tolyl)propionyl chloride (1.1 mmol, 0.2 g) in tetrahydrofuran (5 ml) at room temperature. After 4 hours stirring at room temperature the solvent was evaporated and the residue washed with water. The solid was filtered and washed with diethyl ether/light petroleum (1:20) to give the title product, m.p. 152-3° C.

reactant | (3-chloro-5-trifluoromethyl-2-pyridyl)methylamine hydrochloride | 1 mmol, 0.247 g | Cl.ClC=1C(=NC=C(C1)C(F)(F)F)CN
reactant | triethylamine | 2 mmol, 0.202 g | C(C)N(CC)CC | C6H15N
reactant | 3-(2-tolyl)propionyl chloride | 1.1 mmol, 0.2 g | C1(=C(C=CC=C1)CCC(=O)Cl)C | C10H11ClO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-[(3-Chloro-5-trifluoromethyl-2-pyridyl)methyl]-3-(2-tolyl)propionamide | ClC=1C(=NC=C(C1)C(F)(F)F)CNC(CCC1=C(C=CC=C1)C)=O | C17H16ClF3N2O
